US05216156
{2,4-Bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine-6-yl}hydrazine
The title compound is prepared from the reaction of 2-chloro-4,6-bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine and hydrazine.

reactant | 2-chloro-4,6-bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C45H86ClN7O2
reactant | hydrazine | NN | H4N2
product | {2,4-Bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine-6-yl}hydrazine | C(CCCCCCC)ON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)NN)(C)C | C45H89N9O2
